US05942511
Synthesis of 3-ethoxy-4-allylthiopyridazine
0.57 g(0.025 mol) of metallic sodium was dissolved in 40 ml of absolute methanol and then mixed with 2.49 ml(0.025 mol) of allylmercaptan. To this mixture was added 3.96 g(0.025 mol) of 3-ethoxy-6-chloropyridazine. The reaction solution was refluxed for 24 hours and then treated according to the same manner as Example 1 to obtain the title compound as a freezing pale white crystal.

reactant | sodium | 0.025 mol, 0.57 g | [Na] | Na
reactant | allylmercaptan | 0.025 mol, 2.49 ml | C(C=C)S | C3H6S
reactant | 3-ethoxy-6-chloropyridazine | 0.025 mol, 3.96 g | C(C)OC=1N=NC(=CC1)Cl | C6H7ClN2O
solvent | methanol | 40 ml | CO | CH4O
product | 3-ethoxy-4-allylthiopyridazine | C(C)OC=1N=NC=CC1SCC=C | C9H12N2OS
